US04803211
A mixture of 2.00 g of ethyl mercaptoacetate, 3.13 g of 1-bromo-3-chloropropane, 2.29 g of anhydrous potassium carbonate and 10 ml of N,N-dimethylformamide was stirred at room temperature for 3 hours. The reaction mixture was diluted with toluene and insoluble matters were filtered off. The filtrate was washed with an aqueous sodium hydroxide solution and water, in this sequence. After drying over anhydrous magnesium sulfate, the solvent was distilled off. The residue was applied to silica gel column chromatography. Elution with a solvent mixture of hexane-ethyl acetate (15:1) gave 2.65 g of oily ethyl [(3-chloropropyl)thio]acetate.

reactant | ethyl mercaptoacetate | 2.00 g | SCC(=O)OCC | C4H8O2S
reactant | 1-bromo-3-chloropropane | 3.13 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 2.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl [(3-chloropropyl)thio]acetate | 2.65 g | ClCCCSCC(=O)OCC | C7H13ClO2S
